US07442698B2
N-Formyl-4-piperidinemethanol
4-Piperidinemethanol (10 g, 87 mmol) was dissolved in methyl formate (7 mL, 113 mmol) 0° C., and maintained at that temperature for 30 min, then allowed to reach 20° C. and stirred 90 min. Solid sodium hydroxide was added (0.87 g, pellets) and the mixture was left overnight. Dichloromethane was added, the NaOH removed by filtration and the solution treated with 1M HCl in ether (10 mL). The mixture was filtered through Celite and the solvent was removed under reduced pressure to afford the crude title compound. 1H NMR (400 MHz, CDCl3): 0.85-1.1 (2H, m); 1.55-1.85 (3H, m); 2.5-2.7 (1H, m); 2.95-3.1 (1H, m); 3.3 (2H, d, J 7 Hz); 3.6-3.7 (1H, m); 4.1-4.3 (1H, m); 8 (1H, s).

reactant | 4-Piperidinemethanol | 87 mmol, 10 g | N1CCC(CC1)CO | C6H13NO
reactant | methyl formate | 113 mmol, 7 mL | C(=O)OC | C2H4O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | Dichloromethane | ClCCl | CH2Cl2
product | N-Formyl-4-piperidinemethanol | C(=O)N1CCC(CC1)CO | C7H13NO2
